US08133910B2
To a cold solution (0° C.) of 1-amino-3-{4-[5-(5-ethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol (32 mg, 86 μmol) in DCM (1 mL), DIPEA (45 mg, 345 μmol), glycolic acid (13 mg, 172 μmol) and finally TBTU (33 mg, 101 μmol) is added. The mixture is stirred at rt for 1 h before it is diluted with EA and washed with water. The aq. phase is extracted back with EA. The combined org. extracts are dried over MgSO4, filtered and evaporated. The crude product is purified by crystallisation from acetonitrile to give N-(3-{4-[5-(5-ethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-2-hydroxy-propyl)-2-hydroxy-acetamide (7 mg) as a white solid; LC-MS: tR=0.95 min, [M+1]+=432.16.

reactant | 1-amino-3-{4-[5-(5-ethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-propan-2-ol | 86 μmol, 32 mg | NCC(COC1=C(C=C(C=C1C)C1=NOC(=N1)C=1SC(=CC1)CC)C)O | C19H23N3O3S
reactant | DIPEA | 345 μmol, 45 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | glycolic acid | 172 μmol, 13 mg | C(CO)(=O)O | C2H4O3
reactant | TBTU | 101 μmol, 33 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | EA | CC(OCC)=O | C4H8O2
product | N-(3-{4-[5-(5-ethyl-thiophen-2-yl)-[1,2,4]oxadiazol-3-yl]-2,6-dimethyl-phenoxy}-2-hydroxy-propyl)-2-hydroxy-acetamide | 7 mg | C(C)C1=CC=C(S1)C1=NC(=NO1)C1=CC(=C(OCC(CNC(CO)=O)O)C(=C1)C)C | C21H25N3O5S
